US05107013
2-Acetyl-6-methoxynaphthalene
30 Grams of anhydrous aluminum chloride are added portionwise to a mixture made of 41.85 g of 2-acetyl-5-bromo-6-methoxynaphthalene, 22.15 g of durene and 180 ml of anhydrous methylene chloride cooled to -5° C., in such a manner that the temperature of 20° C. is not exceeded. The reaction mixture is kept for 2 hours at room temperature after the end of the addition and then it is worked as in example 1 obtaining 27.1 g of product with a yield equal to 90.6% calculated on the basis of the starting material 2-acetyl-5-bromo-6-methoxynaphthalene.

reactant | aluminum chloride | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 2-acetyl-5-bromo-6-methoxynaphthalene | 41.85 g | C(C)(=O)C1=CC2=CC=C(C(=C2C=C1)Br)OC | C13H11BrO2
reactant | durene | 22.15 g | C=1(C)C(C)=CC(C)=C(C)C1 | C10H14
solvent | methylene chloride | 180 ml | C(Cl)Cl | CH2Cl2
product | 2-Acetyl-6-methoxynaphthalene | C(C)(=O)C1=CC2=CC=C(C=C2C=C1)OC | C13H12O2
